US06051712
In an analogous manner to that described in Example 22(d), by carbonylating tert-butyl (3RS,4RS)-4-(4-bromo-phenyl)-3-hydroxy-piperidine-1-carboxylate using PdCl2 (CH3CN)2 and 1,3-bis(diphenylphosphino)-propane as the catalyst in the presence of triethylamine under 10 bar of carbon monoxide at 100° C. for 40 hours there was obtained tert-butyl (3RS,4RS)-3-hydroxy-4-(4-methoxycarbonyl-phenyl)-piperidine-1-carboxylate as white crystals; m.p.: 145.5-146° C., MS: 279 (M-C4H8)+.

reactant | tert-butyl (3RS,4RS)-4-(4-bromo-phenyl)-3-hydroxy-piperidine-1-carboxylate | BrC1=CC=C(C=C1)C1C(CN(CC1)C(=O)OC(C)(C)C)O | C16H22BrNO3
reactant | 1,3-bis(diphenylphosphino)-propane | C1(=CC=CC=C1)P(CCCP(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C27H26P2
reactant | carbon monoxide | [C]=O | CO
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | tert-butyl (3RS,4RS)-3-hydroxy-4-(4-methoxycarbonyl-phenyl)-piperidine-1-carboxylate | OC1CN(CCC1C1=CC=C(C=C1)C(=O)OC)C(=O)OC(C)(C)C | C18H25NO5
